US06833421B1
786 mg (5.16 mmol) 1,8-diazabicyclo[5.4.0]undec-7-ene(1,5-5) (DBU) in 5 ml N,N-dimethylformamide were added dropwise to a solution of 413 mg (4.8 mmol) 2-methylacrylic acid in 5 ml N,N-dimethylformamide over a period of 30 minutes. After addition of 4 mg phenothiazine, 146 mg tetrabutylammonium iodide and 2.6 g (3.9 mmol) (E)-3-[4-[[3-[(6-chlorohexyl)oxy]-5-[[2-methoxy-4-[(E)-2-(methoxycarbonyl)vinyl]phenoxy]methyl]cyclohexyl]methoxy]-3-methoxyphenyl]acrylic acid methyl ester dissolved in 10 ml N,N-dimethylformamide the resulting mixture was stirred at 80° C. for 20 hours. The reaction mixture was poured into 50 ml of an ice cold 1 M HCl solution. The aqueous phase was extracted three times with 50 ml ethyl acetate. The organic phase was washed with 50 ml of a saturated sodium bicarbonate solution and repeatedly with water, dried over magnesium sulfate, filtered and concentrated by vacuum evaporation. Purification of the residue by column chromatography on 270 g silica gel using toluene/ethanol (9:1) as eluent yielded 2.6 g (92%) of 2-methylacrylic acid 6-[3,5-bis[[2-methoxy-4-[(E)-2-(methoxycarbonyl)vinyl]phenoxy]methyl]cyclohexyloxy]hexyl ester as yellowish oil.

reactant | 2-methylacrylic acid | 4.8 mmol, 413 mg | CC(C(=O)O)=C | C4H6O2
reactant | (E)-3-[4-[[3-[(6-chlorohexyl)oxy]-5-[[2-methoxy-4-[(E)-2-(methoxycarbonyl)vinyl]phenoxy]methyl]cyclohexyl]methoxy]-3-methoxyphenyl]acrylic acid methyl ester | 3.9 mmol, 2.6 g | COC(\C=C\C1=CC(=C(C=C1)OCC1CC(CC(C1)COC1=C(C=C(C=C1)\C=C\C(=O)OC)OC)OCCCCCCCl)OC)=O | C36H47ClO9
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium iodide | 146 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | phenothiazine | 4 mg | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
product | 2-methylacrylic acid 6-[3,5-bis[[2-methoxy-4-[(E)-2-(methoxycarbonyl)vinyl]phenoxy]methyl]cyclohexyloxy]hexyl ester | 2.6 g, 92% | COC1=C(OCC2CC(CC(C2)COC2=C(C=C(C=C2)\C=C\C(=O)OC)OC)OCCCCCCOC(C(=C)C)=O)C=CC(=C1)\C=C\C(=O)OC | C40H52O11
